US05523404
5-Chloro-6-ethyl-4-hydroxypyrimidine
Two dropping funnels are used for simultaneous dropwise addition of a solution of 35.5 g (0.2 mol) of methyl 3-amino-2-chloro-2-pentenoate and 31.5 g (0.7 mol) of formamide in 150 ml of methanol with stirring to 90.3 ml of a 30% strength sodium methylate solution in methanol at room temperature. The mixture is heated slowly to the reflux temperature and left at this for 10 h. After the mixture has cooled, dry HCl gas is passed through the solution until the pH is 3. Evaporation of the solvent is followed by extraction with butanone, drying and evaporation in a rotary evaporator. Yield: 87% [HPLC]

reactant | methyl 3-amino-2-chloro-2-pentenoate | 0.2 mol, 35.5 g | NC(=C(C(=O)OC)Cl)CC | C6H10ClNO2
reactant | formamide | 0.7 mol, 31.5 g | C(=O)N | CH3NO
reactant | sodium methylate | C[O-].[Na+]
reactant | HCl | Cl | ClH
solvent | methanol | 150 ml | CO | CH4O
product | 5-Chloro-6-ethyl-4-hydroxypyrimidine | Yield: 87% | ClC=1C(=NC=NC1CC)O | C6H7ClN2O
